US03976693
1Ethoxycarbonyl-2-Indanone
To a stirred mixture of sodium hydride (126 g. of a 57% suspension in nujol), 2000 ml. of benzene and 2 ml. of ethanol heated at its reflux temperature under dry nitrogen is added dropwise the diethyl ester of o-phenylene-diacetic acid (335.6 g.) in 700 ml. of benzene. The mixture is refluxed 1.5 hours, poured into water and extracted with ether. The ether extracts are dried and concentrated to give an oil which is crystallized from ethanol-water to give 220 g. of the title product withm m.p. 58°-61°.

reactant | sodium hydride | [H-].[Na+]
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | ethanol | C(C)O | C2H6O
reactant | o-phenylene-diacetic acid | 335.6 g | C1(=C(C=CC=C1)CC(=O)O)CC(=O)O | C10H10O4
solvent | water | O | H2O
product | 1Ethoxycarbonyl-2-Indanone | C(C)OC(=O)C1C(CC2=CC=CC=C12)=O | C12H12O3
